US06197798B1
A. 2-Bromo-5-nitrobenzoyl chloride
To a solution of 2-bromo-5-nitrobenzoic acid (1.00 g, 4.06 mmol) in methylene chloride (15 mL) is added oxalyl chloride (1.42 mL, 16.24 mmol) followed by 1 drop DMF. Addition of DMF results in vigorous gas evolution. After 1.5 h, the reaction mixture is concentrated under reduced pressure to give an oil which is used as is without purification.

reactant | 2-bromo-5-nitrobenzoic acid | 4.06 mmol, 1.00 g | BrC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | oxalyl chloride | 16.24 mmol, 1.42 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-Bromo-5-nitrobenzoyl chloride | BrC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3BrClNO3
